US06579872B1
N-[2-methyl-5-(3-morpholinobenzamido)phenyl]-3-(N-methylhomopiperidin-4-yloxy)benzamide
As described hereinbefore in Example 7, 2-(2-chloroethyl)-N-methylpyrrolidine was reacted with N-[2-methyl-5-(3-morpholinobenzamido)phenyl]-3-hydroxybenzamide and the reaction product was purified by column chromatography on silica using a 9:1 mixture of methylene chloride and methanol as eluent. There was thus obtained N-[2-methyl-5-(3-morpholinobenzamido)phenyl]-3-[2-(N-methylpyrrolidin-2-yl)ethoxy]benzamide (Example 7, Compound No. 32). On further elution an isomeric by-product was obtained. There was thus obtained the title compound NMR Spectrum: (DMSOd6) 1.6 (m, 1H), 1.79 (m, 3H), 2.04 (m, 2H), 2.17 (s, 3H), 2.24 (s, 3H), 2.52 (m, 4H), 3.18 (t, 4H), 3.76 (t, 4H), 4.66 (m, 1H), 7.1 (m, 2H), 7.21 (d, 1H), 7.4 (m, 4H), 7.5 (d, 1H), 7.56 (m, 1H), 7.78 (d, 1H), 9.83 (s, 1H), 10.11 (s, 1H); Mass Spectrum: M+H+543.

reactant | 2-(2-chloroethyl)-N-methylpyrrolidine | ClCCC1N(CCC1)C | C7H14ClN
reactant | N-[2-methyl-5-(3-morpholinobenzamido)phenyl]-3-hydroxybenzamide | CC1=C(C=C(C=C1)NC(C1=CC(=CC=C1)N1CCOCC1)=O)NC(C1=CC(=CC=C1)O)=O | C25H25N3O4
product | N-[2-methyl-5-(3-morpholinobenzamido)phenyl]-3-(N-methylhomopiperidin-4-yloxy)benzamide | CC1=C(C=C(C=C1)NC(C1=CC(=CC=C1)N1CCOCC1)=O)NC(C1=CC(=CC=C1)OC1CCN(CCC1)C)=O | C32H38N4O4
